US07060844B2
To a mixture of 3-(5-bromo-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (467 mg, 1.42 mmol), 1-dimethylamino-2-propyne (473 mg, 5.69 mmol), copper(I) iodide (48 mg, 0.25 mmol), triethylamine (287 mg, 2.84 mmol) in DMF (5 ml), was added tetrakis(triphenylphosphine)palladium (100 mg, 0.086 mmol). The mixture was heated at 65° C. under argon for 16 hours, and then cooled to room temperature. The mixture was diluted with MeOH (100 ml). The insoluble material was removed by filtration, and the filtrate solution was concentrated and then diluted with EtOAc (200 ml). The resulting mixture was washed with brine (3×100 ml), dried over anhydrous Na2SO4, and concentrated to give a dark-brown residue. Purification of the residue by silica gel column chromatography, eluted with a gradient of MeOH in CHCl3, afforded 3-[5-(3-dimethylamino-prop-1-ynyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a brown solid (320 mg, 68%).

reactant | 3-(5-bromo-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 1.42 mmol, 467 mg | BrC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C16H10BrNO2
reactant | 1-dimethylamino-2-propyne | 5.69 mmol, 473 mg | CN(CC#C)C | C5H9N
reactant | triethylamine | 2.84 mmol, 287 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 100 ml | CO | CH4O
catalyst | copper(I) iodide | 0.25 mmol, 48 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.086 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[5-(3-dimethylamino-prop-1-ynyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 320 mg, 68% | CN(CC#CC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C21H18N2O2
